US04550166
A mixture of 5.0 g of 2'-chloro-2,4'-bipyridine, 5 ml of anhydrous hydrazine and 100 ml of pyridine was refluxed. Additional 5 ml portions of anhydrous hydrazine were added after 18, 36 and 54 hours of refluxing. The solution was then refluxed for an additional 48 hours and the solvent removed under vacuum. The solid was dissolved in methylene chloride, treated with activated carbon, filtered and the filtrate concentrated to dryness. The residue was triturated with hexane, giving crystals which were recrystallized from methylene chloride-hexane, giving 2'-hydrazino-2,4'-bipyridine as yellow crystals, mp 120°-121° C.

reactant | 2'-chloro-2,4'-bipyridine | 5.0 g | ClC1=NC=CC(=C1)C1=NC=CC=C1 | C10H7ClN2
reactant | hydrazine | 5 ml | NN | H4N2
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 2'-hydrazino-2,4'-bipyridine | N(N)C1=NC=CC(=C1)C1=NC=CC=C1 | C10H10N4
